US07947674B2
Step d) Synthesis of 5,15-bis-[4-(4-aminophenoxy)phenyl]porphyrin
To a solution of 5,15-bis-[4-(4-nitrophenoxy)phenyl]porphyrin (70 mg, 0.095 mmol) in CHCl3 (10 ml), saturated with concentrated HCl, SnCl2.2H2O (105 mg, 0.475 mmol) was added and the mixture was kept under magnetic stirring, at room temperature for 24 h, then cold water was added, the mixture was neutralized with a solution 15% of ammonia, and the organic phase was extracted, dried on Na2SO4, then the solvent was removed by evaporation. The crude product was purified by chromatography on silica gel (THF to THF/DMF 9/1), to give 43 mg of title product (yield 67%).

reactant | 5,15-bis-[4-(4-nitrophenoxy)phenyl]porphyrin | 0.095 mmol, 70 mg | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)C=2C3=CC=C(N3)C=C3C=CC(C(=C4C=CC(=CC=5C=CC2N5)N4)C4=CC=C(C=C4)OC4=CC=C(C=C4)[N+](=O)[O-])=N3)C=C1 | C44H28N6O6
reactant | HCl | Cl | ClH
reactant | SnCl2.2H2O | 0.475 mmol, 105 mg | O.O.Cl[Sn]Cl
reactant | ammonia | N | H3N
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 5,15-bis-[4-(4-aminophenoxy)phenyl]porphyrin | 43 mg, yield 67% | NC1=CC=C(OC2=CC=C(C=C2)C=2C3=CC=C(N3)C=C3C=CC(C(=C4C=CC(=CC=5C=CC2N5)N4)C4=CC=C(C=C4)OC4=CC=C(C=C4)N)=N3)C=C1 | C44H32N6O2
